US06025352
To a suspension of 2,6-pyridinedicarboxylic acid (8.35 g, 50 mmol) and triethylamine (5.05 g, 50 mmol) in tert-butyl alcohol (ca. 60 mL) was dropwise added diphenylphosphoryl azide (13.8 g, 50 mmol), and the mixture was stirred at room temperature until the reaction mixture became a clear solution. The solution was then slowly heated and refluxed for 2.5 hour. After cooling, the mixture was partitioned between ethyl acetate/hexane (1:1, v/v) and 1% aqueous sodium hydroxide. The organic layer was washed again with 1% aqueous sodium hydroxide. All the aqueous solutions were combined and neutralized to pH=5 with concentrated hydrochloric acid in the presence of ethyl acetate. The ethyl acetate layer was washed with brine, dried over sodium sulfate and concentrated to obtain 5.0 g of 6-tert-butoxycarbonylamino-2-pyridinecarboxylic acid.

reactant | 2,6-pyridinedicarboxylic acid | 50 mmol, 8.35 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | triethylamine | 50 mmol, 5.05 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 50 mmol, 13.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butyl alcohol | ca. 60 mL | C(C)(C)(C)O | C4H10O
product | 6-tert-butoxycarbonylamino-2-pyridinecarboxylic acid | 5.0 g | C(C)(C)(C)OC(=O)NC1=CC=CC(=N1)C(=O)O | C11H14N2O4
